US06939874B2
Step A: Preparation of 5-(4,5-dimethoxy-2-nitro-phenyl)-penta-2,4-dienoic acid ethyl ester.
To a suspension of NaH (0.24 g, 6.0 mmol) in THF (30 mL) at 0° C. was added a solution of triethyl 4-phosphonocrotonate (1.0 g, 4.0 mmol) in THF (5 mL) dropwise. The solution was warmed to RT and stirred for 1 h. Nitroveratraldehyde (0.844 g, 4.0 mmol) was added to the mixture in one portion and the reaction was stirred for an additional 30 min at RT. NH4Cl (aq., sat., 3 mL) was added slowly to quench the reaction, followed by H2O (30 mL). The THF solvent was removed under reduced pressure and the resulting mixture was extracted with EtOAc (3×10 mL). The organic extracts were combined, washed with brine, dried with MgSO4 and filtered. The solvent was removed under reduced pressure and the mixture was purified by chromatography on silica gel to afford the title compound.

reactant | NaH | 6.0 mmol, 0.24 g | [H-].[Na+]
reactant | triethyl 4-phosphonocrotonate | 4.0 mmol, 1.0 g | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | Nitroveratraldehyde | 4.0 mmol, 0.844 g | [N+](=O)([O-])C1=C(C=O)C=CC(=C1OC)OC | C9H9NO5
reactant | NH4Cl | 3 mL | [NH4+].[Cl-]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 30 mL | O | H2O
product | 5-(4,5-dimethoxy-2-nitro-phenyl)-penta-2,4-dienoic acid ethyl ester | C(C)OC(C=CC=CC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-])=O | C15H17NO6
